data/mechanisms/records/IMS8-EQ8.8a.json
{"mechanism_id": "IMS8-EQ8.8a", "species": [{"species_id": "methyloxirane_molecular_ion_O_ionized", "mapped_smiles": "[CH3:1][CH:2]1[O+:3][CH2:4]1", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "methyl_radical", "mapped_smiles": "[CH3:1]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "C_protonated_oxirene_cation_mz43", "mapped_smiles": "[CH:2]1=[O+:3][CH2:4]1", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["methyloxirane_molecular_ion_O_ionized"]}, {"state_id": "state_products", "species_ids": ["methyl_radical", "C_protonated_oxirene_cation_mz43"]}], "steps": [{"step_id": "step_alpha_cleavage_rejected", "from_state": "state_precursor", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [3]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "atom", "atom_maps": [1]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_alpha_rejected", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_cleavage_rejected", "support_type": "contradicted", "locator": {"page": 145, "equation": "8.8", "figure": null, "panel": null, "section": "8.2 Product stability (hidden rearrangements)"}, "confidence": 0.9, "curator_note": "DISFAVORED / REJECTED PATH. Equation 8.8 (left branch): the downward arrow from ionized methyloxirane is CROSSED OUT (a large X) and labeled 'alpha'. The text states the loss of methyl (35% abundance) does NOT proceed by direct alpha-cleavage of the original methyl group to the C-protonated oxirene ion, because that oxirene is a high-energy strained-ring species (Turecek & McLafferty 1984). ARC COUNT: the book draws 0 electron-pushing arcs on this crossed-out branch -- it only shows the crossed-out arrow and the products H3C. + the ring cation. All three moves here are an IMPLICIT curator reconstruction of the balanced radical-site alpha-cleavage electron flow (none are drawn on the page): move <1> = O odd electron (map 3) into the forming C2=O3 pi bond; move <2> = one C1-C2 sigma electron into that pi bond; move <3> = the other C1-C2 electron onto the departing methyl carbon (map 1). The C-protonated oxirene is drawn as a three-membered ring with an endocyclic C=O(+) (double bond on the left edge) and a CH2; formula C2H3O+, computed m/z 43.0178 (NOT a measured value for this path -- the observed m/z 43, 35%, arises from the productive channel in record IMS8-EQ8.8b)."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 58.0413, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_43_rejected", "species_id": "C_protonated_oxirene_cation_mz43", "step_id": "step_alpha_cleavage_rejected", "observed_mz": 43.0178, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "rejected", "confidence": 0.3}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-26T00:00:00Z", "modified_at": "2026-07-26T00:00:00Z"}}
